US08420655B2
5-{1-tert-Butyl-2-[2-(1H-1,2,4-triazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a sealed vial is added 5-bromo-1-tert-butyl-2-[2-(1H-1,2,4-triazol-3-yl)-phenyl]-1H-benzimidazole (80 mg, 0.2 mmol) in DMF (3.5 mL), follow by the addition of 2-aminopyrimidine-5-boronic acid pinacol ester (49 mg, 0.22 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (20 mg, 0.028 mmol) and 2M aq. Na2CO3 (0.4 mL, 0.8 mmol). The reaction mixture is heated under Argon at 100° C. for 10 hours. The residue is diluted with EtOAc, washed with brine, dried under Na2SO4, filtered and concentrated. The residue is loaded onto a silica gel column. The column is eluted with 0-8% 7M NH3 in MeOH/CH2Cl2. The product fractions are collected and concentrated to afford the title compound (28 mg, 34%) as a pale-white solid. LCMS (ESMS): m/z 411.80 (M++1)

reactant | 5-bromo-1-tert-butyl-2-[2-(1H-1,2,4-triazol-3-yl)-phenyl]-1H-benzimidazole | 0.2 mmol, 80 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NNC=N2)C(C)(C)C)C=C1 | C19H18BrN5
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.22 mmol, 49 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | Na2CO3 | 0.8 mmol, 2M, 0.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.028 mmol, 20 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 5-{1-tert-Butyl-2-[2-(1H-1,2,4-triazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 28 mg, 34% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C2=NNC=N2 | C23H22N8
